US07102000B2
To a biphasic mixture of 2-bromo-5-methoxy-4-methyl-aniline (5.6 g, 25.96 mmol), 10% KOH (27 mL) and dichloromethane (30 mL), was added dropwise isobutyryl chloride (3 mL, 28.55 mmol) in dichloromethane (10 mL). The reaction mixture was stirred at room temperature for 48 hrs. The layers were separated. The aqueous layer was further extracted with dichloromethane and the combined organics washed successively with water and brine, dried over MgSO4, filtered and evaporated to give 7.38 g of N-(2-bromo-5-methoxy-4-methyl-phenyl)-isobutyramide (99% yield). 1H NMR (300 MHz; CDCl3): 1.29 (d, J=6.9 Hz, 6 H), 2.14 (s, 3 H), 2.59 (m, 1 H), 3.84 (s, 3 H), 7.24 (s, 1 H), 7.66 (br s, 1 H), 8.07 (s, 1 H).

reactant | 2-bromo-5-methoxy-4-methyl-aniline | 25.96 mmol, 5.6 g | BrC1=C(N)C=C(C(=C1)C)OC | C8H10BrNO
reactant | KOH | 27 mL | [OH-].[K+]
reactant | isobutyryl chloride | 28.55 mmol, 3 mL | C(C(C)C)(=O)Cl | C4H7ClO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N-(2-bromo-5-methoxy-4-methyl-phenyl)-isobutyramide | 7.38 g, 99% yield | BrC1=C(C=C(C(=C1)C)OC)NC(C(C)C)=O | C12H16BrNO2
